US09278915B2
Intermediate 114: 3-(4-Hydroxyphenyl)hex-4-ynoic acid
To a 250 mL 3-necked RB flask fitted with magnetic stirrer was charged with 5-[1-(4-hydroxyphenyl)but-2-yn-1-yl]-2,2-dimethyl-1,3-dioxane-4,6-dione (5.8 g, 20.13 mmol) in diethyl ketone was added water (13 mL), the reaction mixture was heated to refluxed for 48 h. The RM was acidified with 1N HCl and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulphat. Finally removal of solvent under reduced pressure to obtain the product (4.11 g, yield: 100.0%).

reactant | 5-[1-(4-hydroxyphenyl)but-2-yn-1-yl]-2,2-dimethyl-1,3-dioxane-4,6-dione | 20.13 mmol, 5.8 g | OC1=CC=C(C=C1)C(C#CC)C1C(OC(OC1=O)(C)C)=O | C16H16O5
reactant | water | 13 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | diethyl ketone | C(C)C(=O)CC | C5H10O
product | 3-(4-Hydroxyphenyl)hex-4-ynoic acid | 4.11 g, yield: 100.0% | OC1=CC=C(C=C1)C(CC(=O)O)C#CC | C12H12O3
